US07241812B2
(G) (S)-N-(4-(3-(trifluoromethyl)phenethyloxy)phenyl)-2-amino-3-hydroxy-2-methylpropanamide trifluoroacetic acid salt
1-(3-(trifluoromethyl)phenethyloxy)-4-nitrobenzene (470 mg) was converted to 290 mg tert-butyl (S)-2-(4-(3-(trifluoromethyl)phenethyloxy)phenylcarbamoyl)-1-hydroxypropan-2-ylcarbamate following the general procedure provided in Example 5(A) employing N-(Boc)-α-methylserine (210 mg), HATU (360 mg), and DIPEA (900 μl). MS (ESI, M+H+)=483.4. The carbamate (145 mg) was deprotected following the procedure in Example 5(A) yielding 143 mg of the title compound. MS (ESI, M+H+)=383.1. 1H NMR (400 MHz, DMSO-d6) δ 9.8 (bs, 1H), 7.67–7.40 (m, 6H), 6.88 (m, 2H), 5.67 (bs, 1H), 4.18 (t, 3H), 3.91 (m, 1H), 3.58 (m, 1H), 3.11 (t, 3H), 1.41 (s, 3H).

reactant | 1-(3-(trifluoromethyl)phenethyloxy)-4-nitrobenzene | 470 mg | FC(C=1C=C(CCOC2=CC=C(C=C2)[N+](=O)[O-])C=CC1)(F)F | C15H12F3NO3
reactant | tert-butyl (S)-2-(4-(3-(trifluoromethyl)phenethyloxy)phenylcarbamoyl)-1-hydroxypropan-2-ylcarbamate | 290 mg | FC(C=1C=C(CCOC2=CC=C(C=C2)NC(=O)[C@@](CO)(C)NC(OC(C)(C)C)=O)C=CC1)(F)F | C24H29F3N2O5
reactant | N-(Boc)-α-methylserine | 210 mg | C(=O)(OC(C)(C)C)N[C@@](CO)(C(=O)O)C | C9H17NO5
reactant | HATU | 360 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | carbamate | 145 mg | C(N)([O-])=O
solvent | DIPEA | 900 μl | CCN(C(C)C)C(C)C | C8H19N
product | (S)-N-(4-(3-(trifluoromethyl)phenethyloxy)phenyl)-2-amino-3-hydroxy-2-methylpropanamide trifluoroacetic acid salt | 143 mg | FC(C(=O)O)(F)F.FC(C=1C=C(CCOC2=CC=C(C=C2)NC([C@@](CO)(C)N)=O)C=CC1)(F)F | InChI=1S/C19H21F3N2O3.C2HF3O2/c1-18(23,12-25)17(26)24-15-5-7-16(8-6-15)27-10-9-13-3-2-4-14(11-13)19(20,21)22;3-2(4,5)1(6)7/h2-8,11,25H,9-10,12,23H2,1H3,(H,24,26);(H,6,7)/t18-;/m0./s1
